US07226942B2
Part IV: 6-Benzyloxycarbonylamino-5,6,7,8-tetrahydroquinoline
A mixture of 4-benzyloxycarbonylaminocyclohexanone (13.75 g, 55.6 mmol), 3-aminopropenal (5.57 g, 78.4 mmol), and ammonium acetate (0.14 g, 1.78 mmol) in triethylamine (85 mL) was stirred at 115° C. under nitrogen for 3 d. The reaction mixture was then partitioned between chloroform and water. The organic layer was separated, washed sequentially with water, saturated aqueous ammonium chloride solution and brine, dried over anhydrous magnesium sulfate, and evaporated under vacuum to yield a residue. The residue was subjected to silica gel chromatography (eluted with 5% methanol in methylene chloride) to obtain the title compound (1.67 g, 10.5%) as a brown oil. 3C NMR (400 MHz, CDCl3) δ 155.6, 147.5, 137.2, 136.4, 129.2, 128.5, 128.1, 121.2, 66.7, 46.2, 35.2, 30.1, 28.7. 1H NMR (400 MHz, CDCl3) δ 8.31 (d, J=4.4 Hz, 1H), 7.27 (m, 6H), 6.98 (dd, J=4.8, 7.5 Hz, 1H), 5.03 (s, 2H), 4.85 (br s, 1H), 4.00 (br s, 1H), 3.06 (d, J=16.3 Hz, 1H), 2.97 (t, J=6.6 Hz, 2H), 2.62 (dd, J=7.9, 16.0 Hz, 1H), 2.08 (d, J=8.4 Hz, 1H), 1.82 (m, 1H).

reactant | 4-benzyloxycarbonylaminocyclohexanone | 55.6 mmol, 13.75 g | C(C1=CC=CC=C1)OC(=O)NC1CCC(CC1)=O | C14H17NO3
reactant | 3-aminopropenal | 78.4 mmol, 5.57 g | NC=CC=O | C3H5NO
reactant | ammonium acetate | 1.78 mmol, 0.14 g | C(C)(=O)[O-].[NH4+]
solvent | triethylamine | 85 mL | C(C)N(CC)CC | C6H15N
product | 6-Benzyloxycarbonylamino-5,6,7,8-tetrahydroquinoline | 1.67 g, 10.5% | C(C1=CC=CC=C1)OC(=O)NC1CC=2C=CC=NC2CC1 | C17H18N2O2
